US04952583
A mixture of 23.87 g (100.0 mmol) of 1-(3,5-diamino-6-chloropyrazinoyl)imidazole and 58.51 g (300.0 mmol) of N-(2-aminoethyl)-N-propyl-1,2-ethanediamine in 250 ml of tetrahydrofuran was stirred at ambient temperature overnight. The solvent and excess triamine were evaporated and the residue chromatographed on silica gel (150 g) using 1.5:98.5 (v/v) methanol:tetrahydrofuran saturated with ammonia gas as eluent. There was obtained 24.64 g (78.0 mmol, 78%) of 3,5-diamino-N-[2-[(2-aminoethyl)propylamino]ethyl]-6-chloropyrazinecarboxamide as a yellow solid; mp 91°-94° C.

reactant | 1-(3,5-diamino-6-chloropyrazinoyl)imidazole | 100.0 mmol, 23.87 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)N1C=NC=C1 | C8H7ClN6O
reactant | N-(2-aminoethyl)-N-propyl-1,2-ethanediamine | 300.0 mmol, 58.51 g | NCCN(CCN)CCC | C7H19N3
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 3,5-diamino-N-[2-[(2-aminoethyl)propylamino]ethyl]-6-chloropyrazinecarboxamide | 78.0 mmol, 24.64 g, 78% | NC=1C(=NC(=C(N1)N)Cl)C(=O)NCCN(CCC)CCN | C12H22ClN7O
